US05929117
3-(3-Ethoxy-4-methoxyphenyl)-3-phenylacrylonitrile was prepared analogously to 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3-ethoxy-4-methoxybenzophenone (1.3 g, 5 mmol), diethylcyanomethylphosphonate (0.9 mL, 5.5 mmol) and lithium hexamethyldisilazide (4.2 mL, 5.5 mmol, 1.3M) with a reaction time of 24 hours at room temperature. The crude mixture was purified by flash column chromatography (silica gel, methylene chloride) to afford 1.35 g (96%) of a mixture of the E and Z isomers as a white solid: mp 74-77° C.; 1H NMR (CDCl3) δ 7.50-7.24 (m, 10H), 7.07-6.75 (m, 6H), 5.67 (s, 1H), 5.60 (s, 1H), 4.15-3.95 (m, 4H), 3.92 (s, 3H), 3.89 (s, 3H), 1.50-1.36 (m, 6H); 13C NMR (CDCl3) δ 162.8, 162.7, 151.4, 150.9, 148.1, 147.1, 147.9, 139.3, 137.1, 131.3, 130.2, 129.9, 129.5, 129.3, 128.6, 128.5, 128.4, 123.1, 122.0, 118.3, 118.2, 113.9, 112.5, 110.9, 93.3, 92.9, 64.4, 55.9, 55.9, 14.6; Anal. Calcd for C18H17NO2. Theoretical: C, 77.40; H, 6.13; N, 5.01. Found: C, 77.14; H, 6.06; N, 4.75.

reactant | 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)[O-])C1=CC(=C(C=C1)OC)OC
reactant | 3-ethoxy-4-methoxybenzophenone | 5 mmol, 1.3 g | C(C)OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC | C16H16O3
reactant | diethylcyanomethylphosphonate | 5.5 mmol, 0.9 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 5.5 mmol, 1.3M, 4.2 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3-Ethoxy-4-methoxyphenyl)-3-phenylacrylonitrile | C(C)OC=1C=C(C=CC1OC)C(=CC#N)C1=CC=CC=C1 | C18H17NO2
